Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, fevers, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ woman with history of endometriosis
and recurrent pericarditis who presents to the ED with fever,
abdominal pain, tarry diarrhea, fatigue, and muscle aches one 
day
after returning from ___ and ___.

She returned yesterday after spending a month in rural ___ 
and
___. She spent several weeks on a farm that had goats and
chickens, then climbed ___. She had many flea and
mosquito bites. While she was there, she noticed a non-itchy
papular rash on her right arm and the back of her neck that
lasted for about 3 weeks, which she attributes to fleas. The
house she stayed in had lots of mice and cockroaches.  No 
contact
with fresh water or uncooked meat, poultry, or fish. She was
generally careful about sterilizing water and only eating fruit
with thick peels, but did have ice that had not been sterilized
about 10 days ago.

She had diarrhea during the last week she was abroad and the day
she got home, which was occasionally black and tarry. She took
Imodium which did not help. Starting on ___ night, she has 
had
intermittent, crampy lower abdominal pain associated with nausea
and anorexia. The pain last for a few minutes and did not 
respond
to tylenol, but has improved with ketorolac in the hospital. She
has not had diarrhea in the past few days or vomiting. She also
noticed her gums have been bleeding when brushing her teeth for
the past week. She did not notice conjunctival or vaginal
bleeding.

On ___ she developed a subjective fever and chills, malaise,
headache, skin sensitivity, muscle pain. Her neck feels mildly
stiff. She felt lightheaded and tachycardic when she walked to
the bathroom. She took dayquil and nyquil, which did not help.
She also developed a cough, which has gotten worse in the last 2
days, and pleuritic chest pain when she takes deep breaths.

She has been taking malarone for malaria prophylaxis. She got
yellow fever, typhoid, and tetanus vaccines before leaving. She
is up to date with other vaccines, including ___ and HepB. Of
note, ___ reports recent sexual assault. 

In ___, she presented to the ___ ED with several days of
epigastric abdominal pain, N/V/D after returning from ___. Lab
tests were consistent with uncomplicated GI infection. She was
discharged with Zofran and her symptoms resolved. She has a
family history of autoimmune disease, and has had several
episodes of pericarditis, joint pain, and rashes, but does not
have an autoimmune diagnosis. 

In the ED, initial VS were T 96.9, T max 101.0 at 2347 on ___,
HR 138, BP 124/102, RR 18% O2 sat 97% on RA.  HR improved s/p
fluids. 

ED labs notable for elevated leukocytosis to 15, neutrophilic
81%, with normal Hb and platelets. BMP and LFTs unremarkable
except for low HCO3 at 16. Mildly elevated lipase of 62. Trop
negative. Lactate 2.0. UA with 9 WBC, trace leuk est, moderate
bacteria and negative nitrite. HIV ab negative. UCG negative. 
CRP
164.6 and ESR pending. Blood and urine cultures pending. 

ED Imaging: CXR wnl. 

ED interventions: ___ was given fluids, ketorolac, Zosyn,
ondansetron, empiric atovaquone-proguanil, morphine and Tylenol. 


On arrival to the floor, ___ states her nausea and abdominal
pain are better (___).

 
Past Medical History:
Endometriosis s/p ovarian cystectomy
Pericarditis
Lumbar radiculopathy
Zoster
Ovarian cyst
Myelopathy
s/p tonsillectomy 
  
 
Social History:
___
Family History:
Aunt- lupus
PGM- ___
sister- celiac 
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
Vitals: T 98.1 BP 118/78 HR 99 RR 16 O2 95%
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. OP
normal.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: RRR. Audible S1 and S2. Grade I/II systolic murmur. No
rubs or gallops
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds. Tender to palpation in RUQ and
lower quandrants. No hepatosplenomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. Sunburn on back of neck. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs

DISCHARGE PHYSICAL EXAM: 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. OP
normal.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: RRR. Audible S1 and S2. Grade I/II systolic murmur. No
rubs or gallops
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds. Tender to palpation in RUQ and
lower quandrants. No hepatosplenomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. Sunburn on back of neck. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
 
Pertinent Results:
Admission Labs: 
================
___ 06:02PM   GLUCOSE-92 UREA N-4* CREAT-0.5 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-22 ANION GAP-15
___ 06:02PM   ALT(SGPT)-12 AST(SGOT)-16 ALK PHOS-61 TOT 
BILI-0.4
___ 06:02PM   WBC-8.5 RBC-3.77* HGB-11.3 HCT-35.0 MCV-93 
MCH-30.0 MCHC-32.3 RDW-12.6 RDWSD-42.6
___ 06:02PM   PLT COUNT-257
___ 06:02PM   PARST SMR-NEGATIVE
___ 08:45AM   CRP-164.6*
___ 08:45AM   HIV Ab-NEG
___ 07:46PM URINE  HOURS-RANDOM
___ 07:46PM URINE  UCG-NEGATIVE
___ 07:46PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:46PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR*
___ 07:46PM URINE  RBC-<1 WBC-9* BACTERIA-MOD* YEAST-NONE 
EPI-3
___ 07:46PM URINE  MUCOUS-RARE*
___ 05:16PM   ___ COMMENTS-GREEN TOP
___ 05:16PM   LACTATE-2.0
___ 05:09PM   GLUCOSE-90 UREA N-8 CREAT-0.8 SODIUM-136 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-16* ANION GAP-20*
___ 05:09PM   estGFR-Using this
___ 05:09PM   ALT(SGPT)-20 AST(SGOT)-33 ALK PHOS-89 TOT 
BILI-0.7
___ 05:09PM   LIPASE-62*
___ 05:09PM   cTropnT-<0.01
___ 05:09PM   ALBUMIN-4.5 CALCIUM-9.5 PHOSPHATE-3.2 
MAGNESIUM-2.0
___ 05:09PM   WBC-15.0* RBC-4.95 HGB-14.7 HCT-46.7* MCV-94 
MCH-29.7 MCHC-31.5* RDW-12.5 RDWSD-43.1
___ 05:09PM   NEUTS-81.0* LYMPHS-13.0* MONOS-4.4* EOS-0.1* 
BASOS-0.5 IM ___ AbsNeut-12.13* AbsLymp-1.95 AbsMono-0.66 
AbsEos-0.02* AbsBaso-0.08
___ 05:09PM   PLT COUNT-369
___ 05:09PM   ___ PTT-31.5 ___
___ 05:09PM   PARST SMR-NEGATIVE

Pertinent Studies: 
==================
Final Report 
EXAMINATION:  CHEST (PORTABLE AP) 
  
INDICATION:  History: ___ with fever, recent travel to ___// 
eval effusion, 
consolidation 
  
TECHNIQUE:  Portable upright AP view of the chest 
  
COMPARISON:  None. 
  
FINDINGS:  
  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

Discharged Labs: 
===================
___ 02:39AM BLOOD WBC-6.4 RBC-3.54* Hgb-10.5* Hct-33.2* 
MCV-94 MCH-29.7 MCHC-31.6* RDW-12.2 RDWSD-42.1 Plt ___
___ 02:39AM BLOOD Glucose-96 UreaN-5* Creat-0.5 Na-138 
K-4.2 Cl-105 HCO3-26 AnGap-7*
___ 02:39AM BLOOD ALT-13 AST-21 LD(LDH)-116 AlkPhos-56 
TotBili-0.2
___ 02:39AM BLOOD Calcium-8.2* Phos-3.6 Mg-1.___RIEF HOSPITAL COURSE:
======================
Ms. ___ is a ___ year-old woman with history of endometriosis 
and recurrent pericarditis who presented to the ED with fever, 
abdominal pain, fatigue, and muscle aches one day after 
returning from a month-long trip to ___ and ___. Given 
travel history, exposure to farm animals and insects abroad, and 
diarrhea during her last week abroad, various tests were 
performed to investigate travel-related infectious etiologies 
and empiric treatment with doxycycline was initiated. Parasite 
smear neg x3. She had a normal CXR and UA. STI tests were 
pending, ___ completed ceftriaxone and azithromycin empiric 
course for STI. Social work was consulted. She did have some 
diarrhea while in the hospital. However, she improved over 
course of hospitalization with IV fluids, ketorolac for pain, 
ondansetron for nausea, and empiric doxycycline and was stable 
at time of discharge. 

TRANSITIONAL ISSUES:
====================
[]PCP: ___ had leukocytosis and elevated CRP to 164.6 on 
admission, consider repeat labs at follow-up appointment. Follow 
up urine GC/CT and syphilis testing.
___ was instructed to continue atovaquone-proguanil until 
1 week after return from ___
[]Follow up labs: 
 [] Murine Typhus ab, Dengue fever ab, Chikungunya ab, 
Leptospira ab
 [] Stool culture
 [] NAAT gonorrhea/chlamydia

Code status: Full
Contact: ___ (Sister) ___

ACUTE/ACTIVE ISSUES:
====================
#Fever
#Abdominal pain
#General malaise and myalgia 
#Diarrhea
Fever to ___ in the ED with tachycardia which responded to 
fluids. Likely viral gastroenteritis. However, given travel 
history with exposure to farm animals and insects abroad, and 
diarrhea during her last week abroad, various tests were 
performed to investigate travel-related infectious etiologies 
and empiric treatment with doxycycline was initiated. Testing 
was performed for dengue, rickettsial infections, enteric fever, 
chikungunya, leptospirosis. Given diarrheal illness preceding 
return to ___ with watery, tarry stools, stool 
culture/ova/parasites were sent. She was started on empiric 
doxycycline 100mg BID and continued on atovaquone-proguanil for 
malaria ppx (to be completed 1 week after return from ___. 
Given parasite smear neg x3, resolution of leukocytosis, and no 
other clinical signs pointing to travel-related illnesses that 
required continuation of doxycycline, doxycycline was 
discontinued before discharge. Symptoms significantly improved 
since admission after fluids, Tylenol and antibiotics. 

#Anion gap metabolic acidosis, improved:
Improved after fluids. No ketonuria. Normal lactate. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. drospirenone-ethinyl estradiol ___ mg oral DAILY 
2. Atovaquone-Proguanil (250mg-100mg) 1 TAB PO DAILY malaria 
prophylaxis 
3. LORazepam 1 mg PO Q8H:PRN Flying 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 capsule(s) by mouth three times a day 
Disp #*18 Tablet Refills:*0 
2.  Atovaquone-Proguanil (250mg-100mg) 1 TAB PO DAILY malaria 
prophylaxis  
3.  drospirenone-ethinyl estradiol ___ mg oral DAILY  
4.  LORazepam 1 mg PO Q8H:PRN Flying 
RX *lorazepam [Ativan] 1 mg 1 mg by mouth q8hr PRN Disp #*6 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGONOSIS
==================
Campylobacter Jejuni Colitis

SECONDARY DIAGNOSIS
===================
Endometriosis
Pericarditis
Lumbar radiculopathy
Ovarian cyst
Myelopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking part in your care here at ___! 

Why was I admitted to the hospital? 
- You were admitted for various symptoms including fever, body 
aches, abdominal pain. 

What was done for me while I was in the hospital? 
- We gave you IV fluids to help with hydration.
- We gave you medications to help with your headache, abdominal 
pain, and nausea.
- We gave you antibiotics because your symptoms were concerning 
for a possible infection. 

What should I do when I leave the hospital? 
- Try to stay hydrated with fluids with salts e.g. Gatorade.
- Continue taking the antibiotic doxycycline as prescribed.
- You will have a follow-up appointment with your primary care 
physician. Please attend this appointment.
- Try to avoid foods that can upset the stomach e.g. dairy, 
spicy and fatty foods.
- You may take ibuprofen for headaches. 
- If your symptoms are not improving or worsening, please reach 
out to your healthcare provider.

We wish you all the best!

Your ___ Care Team 
 
Followup Instructions:
___